US04927832
STEP B: 7-(1-pyrrolidinyl)-6,7-dihydro-5H-1-pyrindine
5 g of 7-chloro-6,7-dihydro-5H-1-pyrindine hydrochloride were dissolved in 10 ml of water and 8.8 ml of pyrrolidine were added, followed by stirring for two-and-a-half hours at ambient temperature. Extraction was done with methylene chloride and the extracts were washed with water, dried and concentrated to dryness under reduced pressure. The residue was taken up in ethyl acetate, treated with active charcoal, filtered and taken to dryness under reduced pressure. The residue was chromatographed on silica and eluted with a mixture of ethyl acetate and triethylamine (95-5) to obtain 4.71 g of the expected product.

reactant | 7-chloro-6,7-dihydro-5H-1-pyrindine hydrochloride | 5 g | Cl.ClC1CCC=2C=CC=NC12
reactant | pyrrolidine | 8.8 ml | N1CCCC1 | C4H9N
solvent | water | 10 ml | O | H2O
product | 7-(1-pyrrolidinyl)-6,7-dihydro-5H-1-pyrindine | 4.71 g | N1(CCCC1)C1CCC=2C=CC=NC12 | C12H16N2
